US04000275
6-(3-Carboethoxy-2-oxopropyl)-4-nitro-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 4-nitro-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one and ethyl 3-oxo-4-chlorobutyrate.

reactant | 4-nitro-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one | [N+](=O)([O-])C=1C=CC=C2C(N3C(=NC12)NC1=C3C=C(C(=C1)C)C)=O | C16H12N4O3
reactant | ethyl 3-oxo-4-chlorobutyrate | O=C(CC(=O)OCC)CCl | C6H9ClO3
product | 6-(3-Carboethoxy-2-oxopropyl)-4-nitro-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one | C(=O)(OCC)CC(CN1C2=C(C=C(C(=C2)C)C)N2C1=NC1=C(C=CC=C1C2=O)[N+](=O)[O-])=O | C22H20N4O6
